US07485634B2
A solution of nitric acid(90%, 50 uL, 1 mmol) in acetic acid (3 mL) was added dropwise to a stirred solution of ethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate (256 mg, 1 mmol) in acetic acid (5 mL) at 10° C. The mixture was allowed to warm to ambient temperature and stirred for another 1.5 hours, then poured into a mixture of ammonium hydroxide and ice and extracted with DCM. The combined extracts was washed with brine, dried with sodium sulfate, and evaporated in vacuo. The crude product was purified by chromatography on silica gel eluting with hexane-EtOAc (75:25) to give 8-nitro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester (25 mg); 1H-NMR (CDCl3): δ 11.52 (1H, s), 8.78 (1H, d), 8.43 (1H, m), 7.92 (1H, d), 7.82 (1H, dd), 7.46 (1H, d), 4.24 (2H, q), 3.52 (2H, m), 3.07 (2H, m), 1.27 (3H, t); MS (ES): 301 (MH+).

reactant | nitric acid | 1 mmol, 50 uL | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | 1 mmol, 256 mg | C1CNC=C(C=2NC=3C=CC=CC3C21)C(=O)OCC | C15H16N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 8-nitro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 25 mg | C(C)OC(=O)C1=CNCCC2=C1NC=1C=C(C=CC21)[N+](=O)[O-] | C15H15N3O4
